* FDR838P ELECTRICAL MODEL  (SuperSOT-8 P-Ch DMOS)
* ------------------------
.SUBCKT  FDR838P  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-0.9*{-0.00336*TEMP+1.084}}  KP={-0.04*TEMP+54}
+  THETA=0.096  VMAX=2.0E5  LEVEL=3)
Cgs     1    3    2800p
Rd     20    4    3m TC=0.00416
Dds     4    3    DDS
.MODEL     DDS    D(BV={20*{0.000624*TEMP+0.9844}}   M=0.35  CJO=2600p   VJ=0.8)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1E-12   N=0.9   RS=12.7m   TT=25n)
Ra      4    2    3m TC=0.00416
Rs      3    5    1m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    2700p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.65   CJO=2700p   VJ=0.35)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FDR838P
*
